US04920219
Step 1. 2-(1-Oxo-3-carboxypropyl)-4-chloroanisole
A mixture of 4-chloroanisole (20 g), succinic anhydride (16 g) and AlCl3 (42 g) in 1:1 tetrachloroethylene/nitrobenzene (200 ml) is stirred at -10°-0° C. for a week. The mixture is poured into a conc. HCl/crushed ice bath and the solvent is distilled under vacuo at 40° C. The resulting suspension is made basic with 10% aqueous NaHCO3. The solids are filtered and the filtrate made acidic forming a precipitate which is filtered, washed with water, taken up in ethanol and dried. The solution is filtered and evaporated affording the desired product as a white solid, M.P. 113°-115° C.

reactant | 4-chloroanisole | 20 g | ClC1=CC=C(C=C1)OC | C7H7ClO
reactant | succinic anhydride | 16 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | AlCl3 | 42 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | tetrachloroethylene nitrobenzene | 200 ml | ClC(=C(Cl)Cl)Cl.[N+](=O)([O-])C1=CC=CC=C1
product | 2-(1-Oxo-3-carboxypropyl)-4-chloroanisole | O=C(CCC(=O)O)C1=C(C=CC(=C1)Cl)OC | C11H11ClO4
